* combined sim for 5kHz
Vin N001 0 AC 1 Rser=50
C1 N001 0 673.7n
C2 N002 N001 70.62n
L1 N002 N001 1.997m
C3 N002 0 1.090µ
C4 Vout1 N002 198.9n
L2 Vout1 N002 1.653m
C5 Vout1 0 570.9n
RL Vout1 0 50
Vin1 N003 0 AC 1 Rser=50
C6 N003 0 680n
C7 N004 N003 68n
L3 N004 N003 2m Rser=12.35
C8 N004 0 1µ
C9 Vout2 N004 200n
L4 Vout2 N004 1.8m Rser=11.7
C10 Vout2 0 560n
RL1 Vout2 0 50
Vin2 P001 0 AC 1 Rser=50
Cp1 P001 0 4.7e-07
Cp2 P002 P001 4.7e-08
Lp1 P002 P001 2m Rser=12.35
Cp3 P002 0 1e-06
Cp4 Vout3 P002 2.2e-07
Lp2 Vout3 P002 1.8m Rser=11.7
Cp5 Vout3 0 4.7e-07
RLp Vout3 0 50
.ac dec 100 2000 20000
.end